US06586617B1
A mixture of 2,5-dichloronitrobenzene (2.00 g (10.4 mmol)) and cyclopropylamine (2.0 ml) was heated under reflux for 60 hours, and the excess cyclopropylamine was removed by concentration under reduced pressure. The residue was dissolved in ethyl acetate and the resulting solution was washed with aqueous 1% sodium hydroxide, saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:10) as eluent to give 1.30 g (59%) of 4-chloro-N-cyclopropyl-2-nitroaniline as orange crystals.

reactant | 2,5-dichloronitrobenzene | 10.4 mmol, 2.00 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | cyclopropylamine | 2.0 ml | C1(CC1)N | C3H7N
product | 4-chloro-N-cyclopropyl-2-nitroaniline | 1.30 g, 59% | ClC1=CC(=C(NC2CC2)C=C1)[N+](=O)[O-] | C9H9ClN2O2
